US06369092B1
1-(2-Chlorobenzyl)-2-n-propylbenzimidazole (150 mg) and triethylamine (61 mg) are dissolved in methylene chloride (3 ml). Methanesulfonyl chloride (70 mg) is added to the mixture solution at room temperature, stirred for 1 hour, and then washed with diluted hydrochloric acid. After it is washed with water, it is dried and the solvent is removed through evaporation under reduced pressure. The solid residue is filtered using ether, and 1-(2-chlorobenzyl)-6-mesylamino-2-n-propylbenzimidazole (124 mg) is obtained. 1H-NMR, (CDCl3—CD3OD, δ): 0.94 (3H, t, J=7.5 Hz), 1.76 (2H, m), 2.71 (2H, t, J=7.5 Hz), 2.81 (3H, s), 5.36 (2H, s), 6.40 (1H, d, J=7.5 Hz), 6.98-7.22 (4H,m), 7.40 (1H, d, J=7.5 Hz), 7.59 (1H, d, J=7.5 Hz).

reactant | 1-(2-Chlorobenzyl)-2-n-propylbenzimidazole | 150 mg | ClC1=C(CN2C(=NC3=C2C=CC=C3)CCC)C=CC=C1 | C17H17ClN2
reactant | triethylamine | 61 mg | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 70 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | 1-(2-chlorobenzyl)-6-mesylamino-2-n-propylbenzimidazole | 124 mg | ClC1=C(CN2C(=NC3=C2C=C(C=C3)NS(=O)(=O)C)CCC)C=CC=C1 | C18H20ClN3O2S
